US07163932B2
Step 1 Ethyl 4-amino-3-bromobenzoate
To a mechanically stirred solution of ethyl 4-aminobenzoate (165 g, 1 mol) in THF (1.2 L) and pyridine (200 mL) at ˜10° C. was added portionwise (˜10–20 g each time) of pyridine hydrobromide perbromide (tech. 90%, 365 g, 1.02 mol) over a period of 1 h. Internal temperature was kept at 10–15° C. After completion of addition, the mixture was stirred for 30 min, then filtered through celite and the filter cake was washed with THF (1 L). The filtrate was diluted with Et2O, washed with 0.5 M of aqueous NaHSO3 (2×, 400 mL), brine, dried (MgSO4) and concentrated. The residue contained too much H2O and therefore was dissolved in EtOAc (1 L), washed with brine, dried (MgSO4) and concentrated to give a semi-solid residue. The residue was swished with hexanes-Et2O (2:1) to yield 187 g (77%) of the title compound as a white powder. The mother liquor was evaporated and swished again to give 19 g (8%) of additional title compound as a light brown powder.

reactant | ethyl 4-aminobenzoate | 1 mol, 165 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | pyridine hydrobromide perbromide | 1.02 mol, ˜10–20 g | C1=CC=[NH+]C=C1.Br[Br-]Br
solvent | THF | 1.2 L | C1CCOC1 | C4H8O
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl 4-amino-3-bromobenzoate | 187 g, 77% | NC1=C(C=C(C(=O)OCC)C=C1)Br | C9H10BrNO2
